US05807857
a) 4-(Acetylamino)phenethyl bromide
A solution of 4-nitrophenethyl bromide (23.8 g, 103.6 mmol) and acetic anhydride (9.8 ml, 103.6 mmol) in absolute ethanol (400 ml) was hydrogenated over platinum (IV) oxide (2.38 g) at 10 psi. The catalyst was removed by filtration and the solvent evaporated under vacuum. The remaining residue was purified by flash chromatography (silica gel, dichloromethane) to give 12.34 g of the title compound as a white solid. δ (250 MHz, CDCl3) 2.16 (3H, s), 3.12 (2H, t, J=7.5Hz), 3.53 (2H, t, J=7.5Hz), 7.15 (2H, d, J=8.4Hz), 7.45 (2H, d, J=8.4Hz).

reactant | 4-nitrophenethyl bromide | 103.6 mmol, 23.8 g | [N+](=O)([O-])C1=CC=C(CCBr)C=C1 | C8H8BrNO2
reactant | acetic anhydride | 103.6 mmol, 9.8 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | platinum (IV) oxide | 2.38 g | [Pt](=O)=O
product | 4-(Acetylamino)phenethyl bromide | 12.34 g | C(C)(=O)NC1=CC=C(CCBr)C=C1 | C10H12BrNO
